### PR TITLE
[Merged by Bors] - feat: Injectivity of monoid localization

### PR DESCRIPTION
**Pull request by XavierXarles**
Adds two results on the Localization for CommMonoids: one, describes exactly when the localization map is injective, the 
other essentially says that the localization of a cancellative Monoid is cancellative if the localization is injective. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 1]
```diff
@@ -1609,6 +1609,27 @@ theorem of_mulEquivOfMulEquiv {k : LocalizationMap T Q} {j : M ≃* P} (H : S.ma
 #align submonoid.localization_map.of_mul_equiv_of_mul_equiv Submonoid.LocalizationMap.of_mulEquivOfMulEquiv
 #align add_submonoid.localization_map.of_add_equiv_of_add_equiv AddSubmonoid.LocalizationMap.of_addEquivOfAddEquiv
 
+
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1612]:
```suggestion
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 2]
```diff
@@ -1609,6 +1609,27 @@ theorem of_mulEquivOfMulEquiv {k : LocalizationMap T Q} {j : M ≃* P} (H : S.ma
...
+    have : ∃(x' : S), x' = x := (CanLift.prf x hx)
+    obtain ⟨x',hx'⟩ := this
+    rw [← hx'] at hyz
+    use x'
+  · intro a b hab
+    rw [LocalizationMap.eq_iff_exists] at hab
+    obtain ⟨c,hc⟩ := hab
+    apply (fun x a => h a) c (SetLike.coe_mem c) hc
+
+
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1632]:
```suggestion
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 3]
```diff
@@ -1609,6 +1609,27 @@ theorem of_mulEquivOfMulEquiv {k : LocalizationMap T Q} {j : M ≃* P} (H : S.ma
 #align submonoid.localization_map.of_mul_equiv_of_mul_equiv Submonoid.LocalizationMap.of_mulEquivOfMulEquiv
 #align add_submonoid.localization_map.of_add_equiv_of_add_equiv AddSubmonoid.LocalizationMap.of_addEquivOfAddEquiv
 
+
+@[to_additive]
+theorem injective_iff (f : LocalizationMap S N) :
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1614]:
```suggestion
theorem injective_toMap {f : LocalizationMap S N} :
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 4]
```diff
@@ -1609,6 +1609,27 @@ theorem of_mulEquivOfMulEquiv {k : LocalizationMap T Q} {j : M ≃* P} (H : S.ma
...
+  rw [Injective]
+  constructor <;> intro h
+  · intro x hx
+    rw [IsLeftRegular,Injective]
+    simp_rw [LocalizationMap.eq_iff_exists] at h
+    intro y z hyz
+    apply (fun y z _ => h) y z x
+    have : ∃(x' : S), x' = x := (CanLift.prf x hx)
+    obtain ⟨x',hx'⟩ := this
+    rw [← hx'] at hyz
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1625]: The reason `CanLift` even exists is that there is a corresponding tactic that does all this for you!
```suggestion
    lift x to S using hx
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 5]
```diff
@@ -1609,6 +1609,27 @@ theorem of_mulEquivOfMulEquiv {k : LocalizationMap T Q} {j : M ≃* P} (H : S.ma
...
+
+@[to_additive]
+theorem injective_iff (f : LocalizationMap S N) :
+    Injective (LocalizationMap.toMap f) ↔ ∀ ⦃x⦄, x ∈ S → IsLeftRegular x := by
+  rw [Injective]
+  constructor <;> intro h
+  · intro x hx
+    rw [IsLeftRegular,Injective]
+    simp_rw [LocalizationMap.eq_iff_exists] at h
+    intro y z hyz
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1621]:
```suggestion
  · intro x hx y z hyz
    simp_rw [LocalizationMap.eq_iff_exists] at h
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 6]
```diff
@@ -1886,6 +1907,80 @@ noncomputable def lift (f : LocalizationWithZeroMap S N) (g : M →*₀ P)
       exact f.toMonoidWithZeroHom.map_zero.symm }
 #align submonoid.localization_with_zero_map.lift Submonoid.LocalizationWithZeroMap.lift
 
+/-- Given a Localization map `f : M →*₀ N` for a Submonoid `S ⊆ M`,
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1910]:
```suggestion
/-- Given a localization map `f : M →*₀ N` for a submonoid `S ⊆ M`,
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 7]
```diff
@@ -1886,6 +1907,80 @@ noncomputable def lift (f : LocalizationWithZeroMap S N) (g : M →*₀ P)
...
+`f 0 * (f y)⁻¹ = 0` for any `y : M` -/
+theorem eq_zero_of_fst_eq_zero (f : LocalizationWithZeroMap S N)
+    {z x} {y : S} (h : z * f.toFun y = f.toFun x)
+  (hx : x = 0) : z = 0 := by
+  rw [hx, f.map_zero'] at h
+  exact (IsUnit.mul_left_eq_zero (LocalizationMap.map_units' f.toLocalizationMap y)).1 h
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1916]: This is a weird statement. The docstring doesn't seem to correspond to the Lean statement, and I would have expected something like
```suggestion
/-- Given a Localization map `f : M →*₀ N` for a Submonoid `S ⊆ M`,
`f 0 * (f y)⁻¹ = 0` for any `y : M` -/
theorem eq_zero_of_fst_eq_zero (f : LocalizationWithZeroMap S N)
    {z} {y : S} : z * f y = 0 ↔ z = 0 := (f.toLocalizationMap.map_units' y).mul_left_eq_zero
```
which shows you that probably you don't need that lemma at all

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 8]
```diff
@@ -1886,6 +1907,80 @@ noncomputable def lift (f : LocalizationWithZeroMap S N) (g : M →*₀ P)
...
+
+/-- Given a Localization map `f : M →*₀ N` for a Submonoid `S ⊆ M`,
+if `M` is left cancellative monoid with zero, and all elements of `S` are
+left regular, then N is a left cancellative monoid with zero. This result
+can be used for CommSemirings to show that the localization of a Domain,
+when it is injective, is a Domain -/
+theorem leftCancelMulZero_of_le_isLeftRegular
+    (f : LocalizationWithZeroMap S N) [IsLeftCancelMulZero M]
+    (h : ∀ ⦃x⦄, x ∈ S → IsLeftRegular x): IsLeftCancelMulZero N := by
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1925]:
```suggestion
    (h : ∀ ⦃x⦄, x ∈ S → IsLeftRegular x) : IsLeftCancelMulZero N := by
```

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 9]
```diff
@@ -1886,6 +1907,80 @@ noncomputable def lift (f : LocalizationWithZeroMap S N) (g : M →*₀ P)
...
+if `M` is cancellative monoid with zero, and all elements of `S` are
+regular, then N is a cancellative monoid with zero.  -/
+theorem isLeftRegular_of_le_IsCancelMulZero (f : LocalizationWithZeroMap S N)
+    [IsCancelMulZero M] (h : ∀ ⦃x⦄, x ∈ S → IsRegular x): IsCancelMulZero N := by
+  have:IsLeftCancelMulZero N:=
+    leftCancelMulZero_of_le_isLeftRegular f (fun x h' => (h h').left)
+  exact IsLeftCancelMulZero.to_isCancelMulZero
+
+
+
```
Comment (YaelDillies) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1983]:
```suggestion
```

File: Mathlib/GroupTheory/MonoidLocalization.lean (hunk 7 above)
Comment (XavierXarles) [reply Mathlib/GroupTheory/MonoidLocalization.lean:1916]: The reason I put this lemma is because it exists a version for IsLocalization for Semirings in [IsLocalization.eq_zero_of_fst_eq_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/Basic.html#IsLocalization.eq_zero_of_fst_eq_zero). But I agree when I was trying to describe I was not sure about it...

File: Mathlib/GroupTheory/MonoidLocalization.lean (hunk 3 above)
Comment (XavierXarles) [reply Mathlib/GroupTheory/MonoidLocalization.lean:1614]: Why do you propose that name? It is a bit confusing for me the names to use.

Comment (YaelDillies) [reply Mathlib/GroupTheory/MonoidLocalization.lean:1613]: My reasoning here is that:
* You're talking about injectivity of `f.toMap`, so it should be `toMap_injective_something` or `injective_toMap_something` (we tend to prefer the former for predicates like `Injective`, `Surjective`, `Monotone`...)
* It is primarily about `LocalizationMap`, so it should be in namespace `LocalizationMap`
* Actually, `LocalizationMap.toMap_injective` is ambiguous, since it could refer to injectivity of `LocalizationMap.toMap` (instead of `f.toMap`), so probably `toMap_injective_iff` is better.

File: Mathlib/GroupTheory/MonoidLocalization.lean (hunk 7 above)
Comment (YaelDillies) [reply Mathlib/GroupTheory/MonoidLocalization.lean]: Meh, honestly I wouldn't bother about it (and would even remove `IsLocalization.eq_zero_of_fst_eq_zero`)

Comment (XavierXarles) [reply Mathlib/GroupTheory/MonoidLocalization.lean]: I removed that result and modified the proof of the next result accordingly. I am not very happy about the way I wrote it: because I don't know how to write it in a short way, may be since some inferences (?) are not done automatically... Anyway, I hope the proof is clear.

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 10]
```diff
@@ -1886,6 +1901,74 @@ noncomputable def lift (f : LocalizationWithZeroMap S N) (g : M →*₀ P)
...
+if `M` is left cancellative monoid with zero, and all elements of `S` are
+left regular, then N is a left cancellative monoid with zero. This result
+can be used for CommSemirings to show that the localization of a Domain,
+when it is injective, is a Domain -/
+theorem leftCancelMulZero_of_le_isLeftRegular
+    (f : LocalizationWithZeroMap S N) [IsLeftCancelMulZero M]
+    (h : ∀ ⦃x⦄, x ∈ S → IsLeftRegular x) : IsLeftCancelMulZero N := by
+  let fl:=f.toLocalizationMap
+  let g:=f.toMap
+  --- We prove the property to be left cancellative.
```
Comment (xroblot) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1914]:
```suggestion
  let fl := f.toLocalizationMap
  let g := f.toMap
```

**Review by xroblot — CHANGES_REQUESTED** [review]
Here and elsewhere you should add spaces

**Comment by XavierXarles** [comment]
> Here and elsewhere you should add spaces

I hope I added all the appropriate spaces....

**Review by xroblot — APPROVED** [review]

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 11]
```diff
@@ -1886,6 +1901,66 @@ noncomputable def lift (f : LocalizationWithZeroMap S N) (g : M →*₀ P)
...
+    (f : LocalizationWithZeroMap S N) [IsLeftCancelMulZero M]
+    (h : ∀ ⦃x⦄, x ∈ S → IsLeftRegular x) : IsLeftCancelMulZero N := by
+  let fl := f.toLocalizationMap
+  let g := f.toMap
+  --- We prove the property to be left cancellative.
+  have mul_cancel (a z w : N): a ≠ 0 → a * z = a * w → z = w := by
+      intro ha hazw
+      --- Using `LocalizationMap.surj` we find an equality in M that
+      --- imply the goal.
+      cases' LocalizationMap.surj fl a with b hb
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1917]: Can you use `cases` instead of `cases'` ?

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 12]
```diff
@@ -1886,6 +1901,66 @@ noncomputable def lift (f : LocalizationWithZeroMap S N) (g : M →*₀ P)
...
+      cases' LocalizationMap.surj fl z with x hx
+      cases' LocalizationMap.surj fl w with y hy
+      rw [(LocalizationMap.eq_mk'_iff_mul_eq fl).mpr hx]
+      rw [(LocalizationMap.eq_mk'_iff_mul_eq fl).mpr hy]
+      rw [LocalizationMap.eq]
+      use 1
+      simp_rw [OneMemClass.coe_one, one_mul]
+      --- The hypothesis `a ≠ 0` in `P` is equivalent to this
+      have b1ne0 : b.1 ≠ 0 := by
+        by_contra hb1
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1927]: Does starting with `intro hb1` instead of `by_contra hb1` work here?

File: Mathlib/GroupTheory/MonoidLocalization.lean (hunk 11 above)
Comment (XavierXarles) [reply Mathlib/GroupTheory/MonoidLocalization.lean:1917]: Yes, I can. But, pardon my ignorance, ¿is it preferable?

Comment (XavierXarles) [reply Mathlib/GroupTheory/MonoidLocalization.lean:1917]: I could use also  `obtain ⟨b, hb ⟩ := LocalizationMap.surj fl a `

Comment (riccardobrasca) [reply Mathlib/GroupTheory/MonoidLocalization.lean:1917]: Yes, `cases'` (and all the various `tac'`) is from Lean3, but sooner or later it will disappear. See for example #9171 .

Comment (XavierXarles) [reply Mathlib/GroupTheory/MonoidLocalization.lean]: I changed, but with obtain, which I like more...

**Review by riccardobrasca — APPROVED** [review]
Just a final stylistic comment: can you avoid having three intermediate results all called `this`? Lean seems to be good in understanding which one to use (or maybe it uses the last one, I am not sure), but this looks like a code smell.

Thanks!

bors d+

**Comment by riccardobrasca** [comment]
I have the impression you really like to make a lot of intermediate statement using `have`: I've nothing against it in general, but is there a specific reason you don't finish the proof like this?
```
  -- -- The hypothesis `h` gives that `f` (so, `g`) is injective, and we can cancel out `b.1`.
  have : b.1 * (y.1 * x.2) =  b.1 * (x.1 * y.2) :=
      (LocalizationMap.toMap_injective_iff fl).mpr h this
  rw [mul_comm, ← IsLeftCancelMulZero.mul_left_cancel_of_ne_zero b1ne0 this, mul_comm]
```

**Comment by riccardobrasca** [comment]
Another stylistic comment: I think `rw [a, b, c]` is more readable than `rw [a,b,c]`, can you please check the spaces? Thanks!

**Comment by XavierXarles** [comment]
> ✌️ XavierXarles can now approve this pull request. To approve and merge a pull request, simply reply with `bors r+`. More detailed instructions are available [here](https://bors.tech/documentation/getting-started/#reviewing-pull-requests).

bors r+

File: Mathlib/GroupTheory/MonoidLocalization.lean [hunk 13]
```diff
@@ -1886,6 +1901,56 @@ noncomputable def lift (f : LocalizationWithZeroMap S N) (g : M →*₀ P)
...
+ -- The hypothesis `h` gives that `f` (so, `g`) is injective, and we can cancel out `b.1`.
+  exact (IsLeftCancelMulZero.mul_left_cancel_of_ne_zero b1ne0
+      ((LocalizationMap.toMap_injective_iff fl).mpr h main)).symm
+
+/-- Given a Localization map `f : M →*₀ N` for a Submonoid `S ⊆ M`,
+if `M` is a cancellative monoid with zero, and all elements of `S` are
+regular, then N is a cancellative monoid with zero.  -/
+theorem isLeftRegular_of_le_IsCancelMulZero (f : LocalizationWithZeroMap S N)
+    [IsCancelMulZero M] (h : ∀ ⦃x⦄, x ∈ S → IsRegular x): IsCancelMulZero N := by
+  have:IsLeftCancelMulZero N:=
```
Comment (alreadydone) [inline Mathlib/GroupTheory/MonoidLocalization.lean:1950]: lacking some spaces here; maybe fix in your next PR
```
    [IsCancelMulZero M] (h : ∀ ⦃x⦄, x ∈ S → IsRegular x) : IsCancelMulZero N := by
  have : IsLeftCancelMulZero N :=
```
